US07576094B2
A mixture of 5,7-diethyl-6-hydroxyspiro[chroman-2,1′-cyclobutan]-4-one (400 mg), methoxyamine hydrochloride (385 mg), and sodium acetate (379 mg) in methanol (10 mL) was refluxed for 16 hours. The methanol was removed by distillation and the residue was treated with sodium bicarbonate solution and ethyl acetate. The organic phase was washed with water and brine. Evaporation and chromatography (silica gel, hexane-ethyl acetate, 3.5%) gave 310 mg of (E)-5,7-diethyl-6-hydroxyspiro[chroman-2,1′-cyclobutan]-4-one O-methyl oxime. 1H-NMR (300 MHz, CDCl3) δ=6.62 (s, 1H), 4.61 (s, 1H), 4.01 (s, 3H), 3.08 (q, J=7.5 Hz, 2H), 3.01 (s, 2H), 2.61 (q, J=7.5 Hz, 2H), 2.30-1.65 (m, 6H), 1.30-1.20 (m, 6H) ppm. 13C-NMR (75 MHz, CDCl3) δ=150.5, 149.4, 146.2, 133.1, 128.0, 115.7, 115.4, 77.0, 62.0, 33.3, 33.0, 23.3, 21.2, 13.4, 12.2 ppm. MS (m/z)=290 (100, M+H+).

reactant | 5,7-diethyl-6-hydroxyspiro[chroman-2,1′-cyclobutan]-4-one | 400 mg | C(C)C1=C2C(CC3(CCC3)OC2=CC(=C1O)CC)=O | C16H20O3
reactant | methoxyamine hydrochloride | 385 mg | Cl.CON
reactant | sodium acetate | 379 mg | C(C)(=O)[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | (E)-5,7-diethyl-6-hydroxyspiro[chroman-2,1′-cyclobutan]-4-one O-methyl oxime | 310 mg | CO\N=C\1/CC2(CCC2)OC2=CC(=C(C(=C12)CC)O)CC | C17H23NO3
